US08710236B2
To a solution of triphenylphosphine (125 mg, 0.48 mmol) in anhydrous THF (5 mL) at 0° C. was added diisopropylazodicarboxylate (94 uL, 0.48 mmol). After stirring for 30 min. a solution consisting of thioacetic acid (34 uL, 0.48 mmol) and 2-(4-tert-Butylphenyl)-N-(4-cyclohexylmethoxyphenyl)-3-[4-(2-hydroxyethoxy)-phenyl]-propionamide (126 mg, 0.23 mmol) was added. The resulting solution was allowed to warm to rt overnight. The mixture was partitioned between ethyl acetate and H2O and the organic portion concentrated under vacuum. Purification of the crude by preparative TLC (SiO2, 2 mm) using hexane/ethyl acetate (4:1) as eluant afforded Thioacetic acid S-(2-{4-[2-(4-tert-Butylphenyl)-2-(4-cyclohexylmethoxyphenyl carbamoyl)-ethyl]-phenoxy}-ethyl)ester (102 mg, 73%). TLC: Rf=0.38 hexane/ethyl acetate (4:1).

reactant | triphenylphosphine | 0.48 mmol, 125 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 0.48 mmol, 94 uL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | thioacetic acid | 0.48 mmol, 34 uL | C(C)(=S)O | C2H4OS
reactant | 2-(4-tert-Butylphenyl)-N-(4-cyclohexylmethoxyphenyl)-3-[4-(2-hydroxyethoxy)-phenyl]-propionamide | 0.23 mmol, 126 mg | C(C)(C)(C)C1=CC=C(C=C1)C(C(=O)NC1=CC=C(C=C1)OCC1CCCCC1)CC1=CC=C(C=C1)OCCO | C34H43NO4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | Thioacetic acid S-(2-{4-[2-(4-tert-Butylphenyl)-2-(4-cyclohexylmethoxyphenyl carbamoyl)-ethyl]-phenoxy}-ethyl)ester | 102 mg, 73% | C(C)(C)(C)C1=CC=C(C=C1)C(CC1=CC=C(OCCSC(C)=O)C=C1)C(NC1=CC=C(C=C1)OCC1CCCCC1)=O | C36H45NO4S
